US04027029
A solution of 20 g (0.826 mole) of 2-amino-5-nitro benzophenone (cp. Ullmann, Ber. 31, 1965) in 400 ml of glacial acetic acid and 20 ml of conc. hydrochloric acid is diazotised at 20°-25°, with stirring, with 16.5 ml (0.826 mole) of aqueous sodium nitrite solution. To the obtained diazonium salt solution there are added 400 g of ice, and rapidly dropwise a solution of 174 g (0.69 mole) of (2-chloroacetamido)-malonic acid diethyl ester [cp. Ajay Kumar Bose, J. Indian Chem. Soc. 31, 108-110 (1954)] in 400 ml of acetone. A solution of 114 g (0.826 mole) of potassium carbonate in 250 ml of water is subsequently added dropwise at 5°-10° within 20 minutes; stirring is continued for an hour, and benzene and saturated sodium chloride solution added. The benzene solution is separated, washed repeatedly with a mixture of saturated sodium chloride solution and 5% sodium bicarbonate solution until free from acid, dried over sodium sulphate and concentrated by evaporation, whereby crude (2-chloroacetamido) (2-benzoyl-4-nitrophenylazo)-malonic acid diethyl ester is obtained.

reactant | 2-amino-5-nitro benzophenone | 0.826 mole, 20 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | sodium nitrite | 0.826 mole, 16.5 ml | N(=O)[O-].[Na+]
reactant | (2-chloroacetamido)-malonic acid diethyl ester | 0.69 mole, 174 g | C(C)OC(C(C(=O)OCC)NC(CCl)=O)=O | C9H14ClNO5
reactant | potassium carbonate | 0.826 mole, 114 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 250 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2-chloroacetamido) (2-benzoyl-4-nitrophenylazo)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(N=NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=CC=CC=C1)=O)NC(CCl)=O)=O | C22H21ClN4O8
